US06136823
Synthesis of Ethyl 1-(4-Fluoro-2-methyl-5-nitrophenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 1-(4-fluoro-2-methylphenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.1 g) was added to concentrated sulfuric acid (10 ml), and potassium nitrate (330 mg) was added to the mixture under ice cooling. The resultant mixture was stirred at room temperature for 4 days. The reaction mixture was poured into ice water and extracted with chloroform. A chloroform layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain the title compound (1.1 g) as a pale yellow amorphous substance.

reactant | Ethyl 1-(4-fluoro-2-methylphenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.1 g | FC1=CC(=C(C=C1)N1C=C(C(C2=CC(=C(C(=C12)C)[N+](=O)[O-])F)=O)C(=O)OCC)C | C20H16F2N2O5
reactant | potassium nitrate | 330 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 1-(4-Fluoro-2-methyl-5-nitrophenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.1 g | FC1=CC(=C(C=C1[N+](=O)[O-])N1C=C(C(C2=CC(=C(C(=C12)C)[N+](=O)[O-])F)=O)C(=O)OCC)C | C20H15F2N3O7
